US07691867B2
tert-butyl (2R)-2-{[(3-{[(2,2-dimethylpropanoyl)oxy]methyl}-7-methoxy-4-oxo-3,4-dihydroquinazolin-5-yl)oxy]methyl}pyrrolidine-1-carboxylate (0.750 g, 1.5 mmol) was stirred in a 7N solution of ammonia in methanol (250 ml) at room temperature for 24 hours. The mixture was evaporated under reduced pressure to give tert-butyl (2R)-2-{[(7-methoxy-4-oxo-3,4-dihydroquinazolin-5-yl)oxy]methyl}pyrrolidine-1-carboxylate (0.560 g, 100% yield) which was used in the next stage without further purification.

reactant | tert-butyl (2R)-2-{[(3-{[(2,2-dimethylpropanoyl)oxy]methyl}-7-methoxy-4-oxo-3,4-dihydroquinazolin-5-yl)oxy]methyl}pyrrolidine-1-carboxylate | 1.5 mmol, 0.750 g | CC(C(=O)OCN1C=NC2=CC(=CC(=C2C1=O)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C)OC)(C)C | C25H35N3O7
reactant | ammonia | N | H3N
solvent | methanol | 250 ml | CO | CH4O
product | tert-butyl (2R)-2-{[(7-methoxy-4-oxo-3,4-dihydroquinazolin-5-yl)oxy]methyl}pyrrolidine-1-carboxylate | 0.560 g, 100% yield | COC1=CC(=C2C(NC=NC2=C1)=O)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C19H25N3O5
